US06268387B1
4-Methoxy-N-phenyl-3-[3-(2,3,5,6-tetrafluoro-phenyl)-thioureido]-benzamide
Prepared according to the procedure described for Example 60 using 3-amino-4-methoxy-N-phenyl-benzamide (0.243 g, 1.0 mmol) and 2,3,5,6-tetrafluorophenyl isothiocyanate (0.224 g, 1.1 mmol) to give the product (0.398 g); m.p. 170-174° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 1.0 mmol, 0.243 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 2,3,5,6-tetrafluorophenyl isothiocyanate | 1.1 mmol, 0.224 g | FC1=C(C(=C(C=C1F)F)F)N=C=S | C7HF4NS
product | 4-Methoxy-N-phenyl-3-[3-(2,3,5,6-tetrafluoro-phenyl)-thioureido]-benzamide | 0.398 g | COC1=C(C=C(C(=O)NC2=CC=CC=C2)C=C1)NC(=S)NC1=C(C(=CC(=C1F)F)F)F | C21H15F4N3O2S
